US07402595B2
6-bromo-2-[4-(4-methoxycarbonylbenzoylamino)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (139 mg) in dichloromethane (5 ml) were added terephthalic acid monomethyl ester (65 mg), 1-hydroxy-1H-benzotriazole (64 mg) and dimethylpyridin-4-yl-amine (51 mg), and then 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (103 mg) was added at room temperature. The mixture was stirred at room temperature for 15 hrs. Dichloromethane was added, and the mixture was washed with 1N hydrochloric acid and saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (ethyl acetate/methanol=1/0-+9/1) to give the title compound (103 mg, 55%).

reactant | 2-(4-aminobenzyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 139 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)N | C24H19BrN2O3
reactant | terephthalic acid monomethyl ester | 65 mg | COC(C1=CC=C(C(=O)O)C=C1)=O | C9H8O4
reactant | 1-hydroxy-1H-benzotriazole | 64 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 103 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | dimethylpyridin-4-yl-amine | 51 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-bromo-2-[4-(4-methoxycarbonylbenzoylamino)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 103 mg, 55% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)C(=O)OC)=O | C33H25BrN2O6
